US04123537
To a solution of 2-iodo-4-aminomethyl-6-(1,1-dimethylethyl)-3-pyridinol (4.8 g., 0.016 mole) in ethanol (50 ml.) is added 12N hydrochloric acid (3 ml.). The resulting solution is diluted slowly with ether (150 ml.) and cooled to 0°-5° C. whereupon a solid is deposited. The solid is collected, washed with ether and air-dried to give 2-iodo-4-aminomethyl-6-(1,1-dimethylethyl)-3-pyridinol dihydrochloride (5.4 g., 91%), m.p. 177°-179° C. with dec. Recrystallization from ether-ethanol-water (125:50:2; v:v:v) affords an analytical sample of the 2-iodo-4-aminomethyl-6-(1,1-dimethylethyl)-3-pyridinol dihydrochloride as colorless needles, m.p. 178°-179° C. with dec.

reactant | 2-iodo-4-aminomethyl-6-(1,1-dimethylethyl)-3-pyridinol | 0.016 mole, 4.8 g | IC1=NC(=CC(=C1O)CN)C(C)(C)C | C10H15IN2O
reactant | hydrochloric acid | 12N, 3 ml | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ether | 150 ml | CCOCC | C4H10O
product | 2-iodo-4-aminomethyl-6-(1,1-dimethylethyl)-3-pyridinol dihydrochloride | 5.4 g, 91% | Cl.Cl.IC1=NC(=CC(=C1O)CN)C(C)(C)C | InChI=1S/C10H15IN2O.2ClH/c1-10(2,3)7-4-6(5-12)8(14)9(11)13-7;;/h4,14H,5,12H2,1-3H3;2*1H
